US09290485B2
d) 2-(6-Amino-3-((1-benzyl-1H-pyrazole-4-carboxamido)methyl)-2-methylpyridin-4-yloxy)acetic acid
Methyl 2-(6-amino-3-((1-benzyl-1H-pyrazole-4-carboxamido)methyl)-2-methylpyridin-4-yloxy)acetate (28 mg, 0.051 mmol) was dissolved in THF, EtOH, H2O 2:1:1 (5 ml), then LiOH (4.31 mg, 0.103 mmol) was added and the reaction mixture was stirred at rt over night. After adjusting the pH to 4, the reaction mixture was evaporated, co-evaporated with Toluene (4 times) then dried under HV to get the title compound which was used for the next step without further purification. HPLC/MS (Method B) Rtb=0.43 min, MS [M+H]+=396.3.

reactant | Methyl 2-(6-amino-3-((1-benzyl-1H-pyrazole-4-carboxamido)methyl)-2-methylpyridin-4-yloxy)acetate | 0.051 mmol, 28 mg | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC1=CC=CC=C1)OCC(=O)OC | C21H23N5O4
reactant | EtOH | CCO | C2H6O
reactant | H2O | 5 ml | O | H2O
reactant | LiOH | 0.103 mmol, 4.31 mg | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(6-Amino-3-((1-benzyl-1H-pyrazole-4-carboxamido)methyl)-2-methylpyridin-4-yloxy)acetic acid | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC1=CC=CC=C1)OCC(=O)O | C20H21N5O4
